US06420566B2
The process is performed under the conditions of Example 1, starting with 2.5 g of N-(tert-butyl)-N′-[(1R)-1-(4-methoxyphenyl)-2-hydroxyethyl]thiourea in 25 cm3 of aqueous 6N hydrochloric acid for 3 hours at a temperature in the region of 100° C. The reaction mass is evaporated under reduced pressure (5 kPa) at a temperature in the region of 50° C. 15 cm3 of aqueous 1N sodium hydroxide and 5 cm3 of water are added to the residue obtained. The mixture is extracted with 20 cm3 of ethyl acetate and the organic phase is then concentrated as above. The product obtained is purified by chromatography, under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-63μ; mass of silica 80 g), eluting with an ethyl acetate/methanol mixture (80/20 by volume), and collecting about 10 cm3 fractions. Fractions 10 to 16 are combined and then evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.23 g of a lacquer is obtained, the hydrochloride of which is prepared in the following way: the product is dissolved in 2.5 cm3 of acetone and 1 cm3 of diethyl ether, followed by addition thereto of 2 cm3 of 4.5N hydrochloric ether. A crystalline product precipitates. It is filtered off, washed 3 times with acetone and then dried at a temperature in the region of 40° C. under reduced pressure (10 Pa). 0.09 g of (−)-(4R)-4-(4-methoxyphenyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride is obtained in the form of a white solid melting at 236° C. (αD20=−79.6±1.3 at a concentration of 0.5% in methanol).

reactant | N-(tert-butyl)-N′-[(1R)-1-(4-methoxyphenyl)-2-hydroxyethyl]thiourea | 2.5 g | C(C)(C)(C)NC(=S)N[C@@H](CO)C1=CC=C(C=C1)OC | C14H22N2O2S
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | hydrochloric ether | 4.5N, 2 cm3 | CCCl | C2H5Cl
solvent | acetone | 2.5 cm3 | CC(=O)C | C3H6O
solvent | diethyl ether | 1 cm3 | C(C)OCC | C4H10O
product | (−)-(4R)-4-(4-methoxyphenyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride | 0.09 g | Cl.COC1=CC=C(C=C1)[C@H]1N=C(SC1)N | InChI=1S/C10H12N2OS.ClH/c1-13-8-4-2-7(3-5-8)9-6-14-10(11)12-9;/h2-5,9H,6H2,1H3,(H2,11,12);1H/t9-;/m0./s1
